US03931143
1-t-Butylazo-1-cyanocyclooctane was prepared in 93% crude yield by oxidizing 1-t-butylhydrazo-1-cyanocyclooctane with bromine using the same procedure described in Example XIIIC for the oxidation of 1-t-butylhydrazo-1-cyano-1-cyclopropylethane. The crude product was chromatographed over alumina and the product eluted with pentane. The infrared spectrum of the purified product was consistent with the structure of the desired azo. The compound has a 10 hour half-life in trichlorobenzene at approximately 55°C.

reactant | 1-t-butylhydrazo-1-cyanocyclooctane | C(C)(C)(C)NNC1(CCCCCCC1)C#N | C13H25N3
reactant | bromine | BrBr | Br2
reactant | 1-t-butylhydrazo-1-cyano-1-cyclopropylethane | C(C)(C)(C)NNC(C)(C1CC1)C#N | C10H19N3
product | 1-t-Butylazo-1-cyanocyclooctane | C(C)(C)(C)N=NC1(CCCCCCC1)C#N | C13H23N3
